US07074799B2
To a solution of 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide (0.5 mmol) and pyridine (0.55 mmol) in THF (5 ml), add 3-chlorocarbonyl-propionic acid ethyl ester chloride (0.55 mmol). Stir the mixture for 20 minutes at room temperature, add 20 ml of 21% NaOEt in EtOH, and stir for 30 minutes at 50° C. Concentrate, add water, filter, acidify to pH 6, and collect the precipitate to give 3-[4-hydroxy-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-yl]-propionic acid ethyl ester.

reactant | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | 0.5 mmol | NC1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H10F3N3O
reactant | pyridine | 0.55 mmol | N1=CC=CC=C1 | C5H5N
reactant | 3-chlorocarbonyl-propionic acid ethyl ester chloride | 0.55 mmol | [Cl-].C(C)OC(CCC(=O)Cl)=O
reactant | NaOEt | 20 ml | CC[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
product | 3-[4-hydroxy-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-yl]-propionic acid ethyl ester | C(C)OC(CCC1=NC2=CC(=CC=C2C(=N1)O)C1=NC=CC=C1C(F)(F)F)=O | C19H16F3N3O3
